US07691879B2
To a solution of 2-allyl-4-(3-fluorophenyl)-6-methoxy-1-oxo-1,2-dihydroisoquinoline-3-carbonitrile (2.0 g) in 24 mL DMSO was added NaCN (1.47 g). The reaction was heated to 150 C for 6.5 h, then diluted with 1N NaOH and extracted with EtOAc (2×). The organic solutions were extracted once with 1N NaOH. The combine aqueous solutions were acidified with conc. HCl and extracted with EtOAc (3×). All organic solutions were combined and dried (MgSO4), then concentrated to give a dark solid. The solid was suspended in CH2Cl2 and filtered to give 1.04 g of 2-allyl-4-3-fluorophenyl)-6-hydroxy-1-oxo-1,2-dihydroisoquinoline-3-carbonitrile, which was used without further purification.

reactant | 2-allyl-4-(3-fluorophenyl)-6-methoxy-1-oxo-1,2-dihydroisoquinoline-3-carbonitrile | 2.0 g | C(C=C)N1C(C2=CC=C(C=C2C(=C1C#N)C1=CC(=CC=C1)F)OC)=O | C20H15FN2O2
reactant | NaCN | 1.47 g | [C-]#N.[Na+]
solvent | DMSO | 24 mL | CS(=O)C | C2H6OS
solvent | NaOH | 1N | [OH-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-hydroxy-1-oxo-1,2-dihydroisoquinoline-3-carbonitrile | OC=1C=C2C=C(NC(C2=CC1)=O)C#N | C10H6N2O2
